US05658769
Oleic acid (purity greater than 99%; 828 mg) was mixed with t-amyl alcohol (purity greater than 99%; 258 mg) together with 23 mg of distilled water. To this was added 62.5 mg of immobilised Candida antarctica liplase A (code SP433, ex Novo Industri, Denmark) as in Example I. The temperature of the reaction mixture was raised to 60° C. After 22 hours the amount of t-amyl oleate formed in the reaction was determined by GC analysis of the sample. 70.4 mg was removed and the mixture eluted down an alumina column (basic activity 2) to remove free fatty acid, using 60-80 petroleum ether as the eluant. 2.5 mg of eicosane was used as an internal standard for GC analysis. A final product yield of 14.8% based on oleic acid was achieved. Confirmation of the product identity was by GCMS.

reactant | Oleic acid | 828 mg | C(CCCCCCC\C=C/CCCCCCCC)(=O)O | C18H34O2
reactant | t-amyl alcohol | 258 mg | C(C)(C)(CC)O | C5H12O
solvent | water | 23 mg | O | H2O
product | t-amyl oleate | C(CCCCCCC\C=C/CCCCCCCC)(=O)OC(C)(C)CC | C23H44O2
